US08802673B2
To a stirred solution of the mixture of 2-bromo-1-(6-chloropyridin-3-yl)ethanone and 2-chloro-1-(6-chloropyridin-3-yl)ethanone (5.6 g) in ethanol (100 ml) at 5° C. was added portionwise over 5 min NaBH4 (904 mg). The reaction mixture was then stirred at room temperature for 1 hour to afford a light yellow solution. TLC analysis showed the reaction was complete. Sodium methoxide (645 mg) was then added and the reaction mixture was stirred at room temperature overnight. TLC analysis showed a small amount of starting material remaining and so the reaction mixture was stirred at 50° C. for 1 h. The reaction mixture was then poured into EtOAc and washed with saturated brine. The organic phase was dried over Na2SO4 and concentrated in vacuo to afford (RS)-2-chloro-5-(oxiran-2-yl)pyridine (4.04 g) as a yellow oil which was used in the next step without further purification. MS (ISP): 158.0 ([{37Cl}M+H]+), 156.0 ([{35Cl}M+H]+).

reactant | 2-bromo-1-(6-chloropyridin-3-yl)ethanone | BrCC(=O)C=1C=NC(=CC1)Cl | C7H5BrClNO
reactant | 2-chloro-1-(6-chloropyridin-3-yl)ethanone | 5.6 g | ClCC(=O)C=1C=NC(=CC1)Cl | C7H5Cl2NO
reactant | NaBH4 | 904 mg | [BH4-].[Na+]
reactant | Sodium methoxide | 645 mg | C[O-].[Na+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (RS)-2-chloro-5-(oxiran-2-yl)pyridine | 4.04 g | ClC1=NC=C(C=C1)C1OC1 | C7H6ClNO
